US07015346B2
Compound B3 (1.40 g, 5.87 mmol) was dissolved in an excess of 1-propanol (50 mL), concentrated H2SO4 (3 drops) was added, and the mixture was heated at 90° C. for ˜18 hours. The volume of 1-propanol was reduced under vacuum, then the mixture was diluted with diethyl ether, washed with saturated sodium bicarbonate solution (2×), distilled water (1×), brine (1×), dried over magnesium sulfate and solvent was removed under vacuum, giving 3-ethoxy-4-hydroxyphenylacetic acid propyl ester as a yellow oil.

reactant | 1-propanol | 50 mL | C(CC)O | C3H8O
reactant | diethyl ether | C(C)OCC | C4H10O
catalyst | H2SO4 | 3 drops | OS(=O)(=O)O | H2O4S
product | 3-ethoxy-4-hydroxyphenylacetic acid propyl ester | C(CC)OC(CC1=CC(=C(C=C1)O)OCC)=O | C13H18O4
